US08703758B2
A) 6-fluoro-5-methoxy-1,3-benzothiazol-2-amine
A suspension of 4-fluoro-3-methoxyaniline (1.00 g) and potassium thiocyanate (2.07 g) in acetic acid (20 mL) was stirred at room temperature for 20 min, and a solution of bromine (0.380 mL) in acetic acid (1 mL) was added thereto over 5 min. The reaction mixture was stirred at room temperature for 30 min, neutralized with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The obtained organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (670 mg).

reactant | 4-fluoro-3-methoxyaniline | 1.00 g | FC1=C(C=C(N)C=C1)OC | C7H8FNO
reactant | potassium thiocyanate | 2.07 g | [S-]C#N.[K+]
reactant | bromine | 0.380 mL | BrBr | Br2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 6-fluoro-5-methoxy-1,3-benzothiazol-2-amine | 670 mg | FC1=CC2=C(N=C(S2)N)C=C1OC | C8H7FN2OS
